US08703805B2
Preparation of Methyl [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]acetate
Concentrated H2SO4 (4 mL) was added dropwise at 0° C. to a stirred solution of the [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]acetonitrile (148 mg, 0.33 mmol) in a mixture of MeOH—H2O (10:1, 11 mL), and the resulting mixture was stirred at 90° C. overnight. The mixture was diluted with cold water, then basified with Na2CO3 solid, extracted with EtOAc. The combined extracts were washed with brine, dried over Na2SO4, and evaporated in vacuo. The crude product was purified by flash chromatography (0-40% 20% MeOH/DCM) to afford the title compound as a white solid (131 mg, 82%). 1HNMR (CDCl3): δ 8.04 (m, 1H), 7.83-7.81 (m, 1H), 7.73-7.71 (m, 1H), 7.57-7.41 (m, 5H), 7.20 (d, 1H), 6.75 (d, 1H), 6.69 9s, 1H), 3.82 9s, 2H), 3.79 (s, 3H), 3.08 (s, 3H). MS(ES): 487 [M+H]+.

reactant | H2SO4 | 4 mL | OS(=O)(=O)O | H2O4S
reactant | [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]acetonitrile | 0.33 mmol, 148 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)CC#N | C22H16ClN3O2S2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH—H2O | 11 mL | CO.O
solvent | water | O | H2O
product | Methyl [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]acetate | 131 mg, 82% | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)CC(=O)OC | C23H19ClN2O4S2
